US06034096
A solution of 6-(diethylaminocarbonyl)-2-naphthalenecarboxamide (11.6 g, 42 mmol) in THF (100 ml) was slowly added to a refluxing suspension of lithium aluminium hydride (4.9 g, 128 mmol) in THF (100 ml). The mixture was refluxed for 2 hours, then cooled at room temperature and treated with a mixture of THF (16 ml) and water (2.2 ml), with 20% sodium hydroxide (5.5 ml) and finally with water (22 ml). The white solid was filtered off and the solvent was removed under reduced pressure. Crude was purified by chromatography on silica gel (eluent chloroform-methanol-ammonium hydroxide 15:1:0.1) yielding 8.1 g (Yield 80%) of pure 6-(diethylaminomethyl)-2-naphthylmethylamine as waxy solid.

reactant | 6-(diethylaminocarbonyl)-2-naphthalenecarboxamide | 42 mmol, 11.6 g | C(C)N(C(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)N)CC | C16H18N2O2
reactant | lithium aluminium hydride | 128 mmol, 4.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2.2 ml | O | H2O
reactant | sodium hydroxide | 5.5 ml | [OH-].[Na+]
reactant | water | 22 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 6-(diethylaminomethyl)-2-naphthylmethylamine | 8.1 g, Yield 80% | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CN | C16H22N2
